US05068242
Benzyl 2-N-(4-(2-naphthyl)butyryl)-(lS,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate
2 5 g of benzyl (lS,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate and 2.2 g of 4-(2-naphthyl)butyric acid are dissolved in 40 ml of DMF and cooled to -5° C. 7.7 ml of triethylamine and then 10 ml of n-propylphosphonic anhydride (50 % strength solution in dichloromethane) were pipetted into this solution under a nitrogen atmosphere. This mixture was stirred at room temperature for 48 hours, to effect complete conversion. The solution was diluted with 100 ml of ethyl acetate and successively extracted two times each with saturated NaHCO3 solution, 10 % strength citric acid solution and saturated NaCl solution. After drying over MgSO4 and concentration of the organic phase, the crude product obtained was separated by column chromatography over silica gel (cyclohexane/ethyl acetate). This gave 2.52 g of the desired product.

reactant | benzyl (lS,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate | [C@H]12N[C@@H](C[C@@H]2CCC1)C(=O)OCC1=CC=CC=C1 | C15H19NO2
reactant | 4-(2-naphthyl)butyric acid | 2.2 g | C1=C(C=CC2=CC=CC=C12)CCCC(=O)O | C14H14O2
reactant | triethylamine | 7.7 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-N-(4-(2-naphthyl)butyryl)-(lS,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate | C1=C(C=CC2=CC=CC=C12)CCCC(=O)N1[C@H]2CCC[C@H]2C[C@H]1C(=O)OCC1=CC=CC=C1 | C29H31NO3
